US04870074
Preparation of 2-(2-cyanoethyl)-4-benzylmorpholine
A mixture of 2-(2-cyanoethyl)morpholine (5.4 g), benzyl chloride (5.4 g), potassium carbonate (5.4 g), potassium iodide (0.5 g), and methyl ethyl ketone (30 ml) is heated under reflux for 1 hour. After cooling, the reaction mixture is filtered and the filtrate is concentrated. The residue is dissolved in diethyl ether, and the solution is extracted with dilute hydrochloric acid. The extracts are basified with dilute aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is dried over sodium sulfate and evaporated to give the title compound (8 g) as an oil.

reactant | 2-(2-cyanoethyl)morpholine | 5.4 g | C(#N)CCC1CNCCO1 | C7H12N2O
reactant | benzyl chloride | 5.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 5.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.5 g | [I-].[K+]
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | 2-(2-cyanoethyl)-4-benzylmorpholine | 8 g | C(#N)CCC1CN(CCO1)CC1=CC=CC=C1 | C14H18N2O
